US03948937
A mixture of 62.00 g 2-(4-methoxyphenyl)-3,3a-dihydro-8H-pyrazolo[5,1-a]isoindol-8-one, 1100 ml of benzene, and 27.2 g. of 2,3-dichloro-5,6-dicyanobenzoquinone was heated under reflux for 2 hours under nitrogen atmosphere. A further 27.2 g of 2,3-dichloro-5,6-dicyanobenzoquinone was added, and the heating was continued for a total of 8 hours. After cooling to 25°, the solid residue was filtered off, and the filtrate was evaporated to dryness under vacuum. The combined solids from the filter and evaporation flask were stirred mechanically for 1 hour with a mixture of 20 g of 85% potassium hydroxide and 1500 g of water. The mixture was filtered, the yellow solid was washed successively with 2 × 500-ml of 5% sodium bicarbonate, 2 × 500-ml of water, and air-dried. The yellow residue was recrystallized from 3000 ml of acetone to yield 55 g (80%) of 2-(4-methoxyphenyl)pyrazolo[ 5,1-a]isoindol-8-one, mp 180-181°.

reactant | 2-(4-methoxyphenyl)-3,3a-dihydro-8H-pyrazolo[5,1-a]isoindol-8-one | 62.00 g | COC1=CC=C(C=C1)C1=NN2C(C=3C=CC=CC3C2=O)C1 | C17H14N2O2
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 27.2 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | benzene | 1100 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-methoxyphenyl)pyrazolo[ 5,1-a]isoindol-8-one | 55 g, 80% | COC1=CC=C(C=C1)C1=NN2C(C=3C=CC=CC3C2=O)=C1 | C17H12N2O2
